US04855286
(c) 3-Boc-4(S)-Cyclohexylmethyl-2,2-dimethyl-5-(2-bromoethyl)oxazolidine
1.6 ml of diethyl azodicarboxylate are added dropwise, at 20° C. under argon, to 690 mg of 3-Boc-4(S)-cyclohexylmethyl-2,2-dimethyl-5-(2-hydroxyethyl)oxazolidine, 2.6 g of triphenylphosphine and 1.6 g of pyridinium bromide in 15 ml of CH2Cl2. After 16 h at R.T., H2O is added and the mixture is diluted with 100 ml of CH2Cl2. The organic phase is washed twice with saturated NaHCO3 solution and once with saturated NaCl solution. The organic phase is dried with Na2SO4 and concentrated, and the residue is taken up in a little EA and filtered to remove PPh3. Purification on silica gel provides the title compound (eluent: H/EA 15:1).

reactant | diethyl azodicarboxylate | 1.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-Boc-4(S)-cyclohexylmethyl-2,2-dimethyl-5-(2-hydroxyethyl)oxazolidine | 690 mg | C(=O)(OC(C)(C)C)N1C(OC([C@@H]1CC1CCCCC1)CCO)(C)C | C19H35NO4
reactant | triphenylphosphine | 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridinium bromide | 1.6 g | [Br-].[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 3-Boc-4(S)-Cyclohexylmethyl-2,2-dimethyl-5-(2-bromoethyl)oxazolidine | C(=O)(OC(C)(C)C)N1C(OC([C@@H]1CC1CCCCC1)CCBr)(C)C | C19H34BrNO3
